US08202990B2
In a round bottom flask, 3-amino-2,2-difluoropropanoic acid (500 mg, 4 mmol) was solubilized in MeOH (10 mL). At 0° C., SOCl2(1 mL) was added dropwise. The reaction mixture was then stirred at room temperature overnight. Evaporation of the reaction mixture gave methyl 3-amino-2,2-difluoropropanoate, as its HCL salt, as a white solid (570 mg, 81%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.63 (t, J=16 Hz, 2 H) 3.87 (s, 3 H) 9.07 (br. s., 2 H).

reactant | 3-amino-2,2-difluoropropanoic acid | 4 mmol, 500 mg | NCC(C(=O)O)(F)F | C3H5F2NO2
reactant | SOCl2 | 1 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | methyl 3-amino-2,2-difluoropropanoate | NCC(C(=O)OC)(F)F | C4H7F2NO2
